US08071592B2
(c) 1,1-Dimethylethyl [1-(2-{[6-(methyloxy)-3-nitro-2-pyridinyl]amino}ethyl)-4-piperidinyl]carbamate
A mixture of 2-chloro-6-(methyloxy)-3-nitropyridine (1.9 g, 10 mmol), 1,1-dimethylethyl [1-(2-aminoethyl)-4-piperidinyl]carbamate (2.43 g, 10 mmol) and potassium carbonate (1.4 g, 10 mmol) in acetonitrile (35 ml) and DMF (10 ml) was heated at 40° C. for 30 minutes. The mixture was filtered, washing with acetonitrile, and evaporated. The residue was dissolved in the minimum volume of DCM (15 ml) and washed with water (1 ml). The organic extract was added to a silica column which was then eluted with 0-100% ethyl acetate in hexane affording a yellow solid (3.1 g, 78%).

reactant | 2-chloro-6-(methyloxy)-3-nitropyridine | 10 mmol, 1.9 g | ClC1=NC(=CC=C1[N+](=O)[O-])OC | C6H5ClN2O3
reactant | 1,1-dimethylethyl [1-(2-aminoethyl)-4-piperidinyl]carbamate | 10 mmol, 2.43 g | NCCN1CCC(CC1)NC(OC(C)(C)C)=O | C12H25N3O2
reactant | potassium carbonate | 10 mmol, 1.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 35 ml | C(C)#N | C2H3N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1,1-Dimethylethyl [1-(2-{[6-(methyloxy)-3-nitro-2-pyridinyl]amino}ethyl)-4-piperidinyl]carbamate | COC1=CC=C(C(=N1)NCCN1CCC(CC1)NC(OC(C)(C)C)=O)[N+](=O)[O-] | C18H29N5O5
